### PR TITLE
feat(MeasureTheory): the space of probability measures on a compact space is compact

### PR DESCRIPTION
**Pull request by FormulaRabbit81**
---

- [x] depends on: #30845 
- [x] depends on: #28061
- [x] depends on #31656
- [x] depends on #31964 

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by FormulaRabbit81** [comment]
WIP

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 1]
```diff
@@ -3,9 +3,15 @@ Copyright (c) 2025 Yoh Tanimioto. All rights reserved.
 Released under Apache 2.0 license as described in the file LICENSE.
 Authors: Yoh Tanimoto
 -/
+
+
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean]:
```suggestion
```

File: Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean [hunk 2]
```diff
@@ -3,9 +3,15 @@ Copyright (c) 2025 Yoh Tanimioto. All rights reserved.
...
 module
 
 public import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.Real
+public import Mathlib.MeasureTheory.Measure.LevyProkhorovMetric
+public import Mathlib.Topology.Algebra.Module.LinearMap
+public import Mathlib.Analysis.Normed.Module.WeakDual
+public import Mathlib.Analysis.LocallyConvex.Polar
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean]: Can any of these become private imports?

Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Integral/RieszMarkovKakutani/NNReal.lean]: All of them I think

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 3]
```diff
@@ -6,9 +6,12 @@ Authors: Kalle Kytölä
...
 
 public import Mathlib.MeasureTheory.Measure.Portmanteau
-public import Mathlib.MeasureTheory.Integral.DominatedConvergence
-public import Mathlib.MeasureTheory.Integral.Layercake
-public import Mathlib.MeasureTheory.Integral.BoundedContinuousFunction
+
+import Mathlib.Analysis.Normed.Module.WeakDual
+import Mathlib.MeasureTheory.Integral.DominatedConvergence
+import Mathlib.Topology.ContinuousMap.SecondCountableSpace
+import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.NNReal
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.NNReal
import Mathlib.Topology.ContinuousMap.SecondCountableSpace
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 4]
```diff
@@ -224,37 +231,45 @@ instance [SemigroupWithZero β] [ContinuousMul β] :
     SemigroupWithZero C_c(α, β) :=
   DFunLike.coe_injective.semigroupWithZero _ coe_zero coe_mul
 
-instance [AddZeroClass β] [ContinuousAdd β] : Add C_c(α, β) :=
-  ⟨fun f g => ⟨f + g, HasCompactSupport.add f.2 g.2⟩⟩
+section AddZeroClass
+variable [AddZeroClass β] [ContinuousAdd β]
+instance : Add C_c(α, β) where add f g := ⟨f + g, HasCompactSupport.add f.2 g.2⟩
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:238]:
```suggestion

instance : Add C_c(α, β) where add f g := ⟨f + g, HasCompactSupport.add f.2 g.2⟩
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 5]
```diff
@@ -722,4 +727,113 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
 
 end Levy_Prokhorov_metrizes_convergence_in_distribution
 
-end MeasureTheory -- namespace
+variable {X : Type*} [MetricSpace X] [MeasurableSpace X] [CompactSpace X] [BorelSpace X]
+
+open WeakDual CompactlySupported CompactlySupportedContinuousMap ProbabilityMeasure
+
+instance : CompactSpace (LevyProkhorov (ProbabilityMeasure X)) := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:733]: This is a long proof. Could you intersperse comments?

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 6]
```diff
@@ -722,4 +727,113 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+  let A := { φ : WeakDual ℝ C(X, ℝ) | ‖toStrongDual φ‖ ≤ 1 }
+  have hAeq : A = toStrongDual ⁻¹' Metric.closedBall 0 1 := by ext x; simp [A]
+  have hA1 : IsCompact A := by
+    rw [hAeq]; exact isCompact_closedBall ℝ 0 1
+  let B := { φ : WeakDual ℝ C(X, ℝ) | φ ⟨(fun x => 1), continuous_const⟩ = 1 }
+  let C := { φ : WeakDual ℝ C(X, ℝ) | ∀ f : C_c(X, ℝ), 0 ≤ f → 0 ≤ φ f}
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
  let B := {φ : WeakDual ℝ C(X, ℝ) | φ ⟨fun x => 1, continuous_const⟩ = 1}
  let C := {φ : WeakDual ℝ C(X, ℝ) | ∀ f, 0 ≤ f → 0 ≤ φ f}
```

Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: This actually needs to `f` be `C_c` as otherwise lean gives it automatically type `ContinuousMap`, which complicates the proof later

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 5 above)
Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:733]: Thanks for the review! I've added some now

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 7]
```diff
@@ -722,4 +727,110 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
 
 end Levy_Prokhorov_metrizes_convergence_in_distribution
 
-end MeasureTheory -- namespace
+variable {X : Type*} [MetricSpace X] [MeasurableSpace X] [CompactSpace X] [BorelSpace X]
+
+open WeakDual CompactlySupported CompactlySupportedContinuousMap ProbabilityMeasure
+
+instance : CompactSpace (LevyProkhorov (ProbabilityMeasure X)) := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean:733]: Can you deduce
```
instance : CompactSpace (ProbabilityMeasure X) := by
```
? That is the statement that should be mentioned in the module doc, not this one which is auxiliary

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 8]
```diff
@@ -722,4 +727,110 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+  -- We define Φ as the space of normalized positive continuous linear functionals on C(X, ℝ)
+  let A := toStrongDual ⁻¹' Metric.closedBall (α := (StrongDual ℝ C(X, ℝ))) 0 1
+  have hA1 : IsCompact A := isCompact_closedBall ℝ 0 1
+  let B := {φ : WeakDual ℝ C(X, ℝ) | φ ⟨fun x => 1, continuous_const⟩ = 1}
+  let C := {φ : WeakDual ℝ C(X, ℝ) | ∀ f: C_c(X, ℝ), 0 ≤ f → 0 ≤ φ f}
+  let Φ := A ∩ B ∩ C
+  have hΦ : IsClosed Φ := by -- Note this is compact, but we only need closedness
+    · refine IsClosed.inter (IsClosed.inter (IsCompact.isClosed hA1) ?_) ?_
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
    · refine (hA1.isClosed.inter ?_).inter ?_
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 9]
```diff
@@ -722,4 +727,110 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+      · have : B = (fun f ↦ f ⟨(fun x => 1), continuous_const⟩) ⁻¹' {1} := by grind
+        simpa [this] using (IsClosed.preimage (WeakDual.eval_continuous _) isClosed_singleton)
+      · have : C = ⋂ f : {g : C_c(X, ℝ) | 0 ≤ g}, {φ : WeakDual ℝ C(X, ℝ) | 0 ≤ φ f} := by
+          ext x; simp [C]
+        rw [this]
+        refine isClosed_iInter fun f ↦ ?_
+        have : {φ | 0 ≤ φ f} = (fun φ : WeakDual ℝ C(X, ℝ) ↦ φ f) ⁻¹' Set.Ici 0 := by grind
+        simpa using (IsClosed.preimage (WeakDual.eval_continuous _) isClosed_Ici)
+  -- Now we show Φ is sequentially compact using the sequential Banach Alaoglu theorem
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
  -- Now we show Φ is sequentially compact using the sequential Banach-Alaoglu theorem
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 10]
```diff
@@ -722,4 +727,110 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+    rw [← ENNReal.toReal_eq_one_iff, ← MeasureTheory.Measure.real_def]
+    calc (RealRMK.rieszMeasure (Λ φ)).real Set.univ
+      _ = ∫ (x : X), 1 ∂(RealRMK.rieszMeasure (Λ φ)) := by rw [integral_const, smul_eq_mul, mul_one]
+      _ = φ.1 ⟨fun x ↦ 1, continuous_const⟩ := RealRMK.integral_rieszMeasure (Λ φ) c1
+      _ = 1 := φ.2.1.2
+  let T (φ : Φ) : LevyProkhorov (ProbabilityMeasure X) :=
+    .ofMeasure ⟨RealRMK.rieszMeasure (Λ φ), IsPMeas φ⟩
+  -- The main idea is to show that T is (sequentially) continuous from the (sequentially) compact Φ
+  -- to the space of measures. For this to be sufficient we need T to be surjective.
+  have : Set.univ = Set.range T := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
  have : Surjective T := by
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 11]
```diff
@@ -722,4 +727,110 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+            (f := (ContinuousMap.equivBoundedOfCompact X ℝ).toFun f)
+      · change (fun f ↦ ∫ (x : X), f x ∂μprob) (fun x ↦ 1) = 1
+        simp
+      · change (0 ≤ (fun f ↦ ∫ (x : X), f x ∂μprob) g.toContinuousMap)
+        simpa [coe_toContinuousMap] using integral_nonneg hgpos
+    let φ_fin : Φ := by use φ_weak
+    simpa only [Set.mem_univ, true_iff] using ⟨φ_fin, (Equiv.symm_apply_eq
+        (LevyProkhorov.toMeasureEquiv)).mpr <| Subtype.ext
+        RealRMK.rieszMeasure_integralPositiveLinearMap⟩
+  rw [this]
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
    exact ⟨φ_fin, (Equiv.symm_apply_eq
        (LevyProkhorov.toMeasureEquiv)).mpr <| Subtype.ext
        RealRMK.rieszMeasure_integralPositiveLinearMap⟩
  rw [\l this.range_eq]
```
and maybe even inline `φ_fin` and `as_ball`?

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 12]
```diff
@@ -722,4 +727,110 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+    let liftL : C(X, ℝ) →ₚ[ℝ] ℝ :=
+       {toFun := L ∘ continuousMapEquiv
+        map_add' f g := by
+          simp only [Function.comp_apply, liftCompactlySupported_add]
+          apply MeasureTheory.integral_add'
+          all_goals simpa [Integrable] using ⟨by measurability,
+              HasFiniteIntegral_continuous_ProbabilityMeasure⟩
+        map_smul' := by simp [L, integral_const_mul]
+        monotone' := fun _ _ hle ↦ L.monotone' <| CompactlySupportedContinuousMap.le_def.mpr hle}
+    let φ_weak : WeakDual ℝ (C(X,ℝ)) := ((liftL).toLinearMap.mkContinuous 1 fun f ↦ ?_)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
    let φ_weak : WeakDual ℝ (C(X, ℝ)) := ((liftL).toLinearMap.mkContinuous 1 fun f ↦ ?_)
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 13]
```diff
@@ -409,7 +409,16 @@ lemma continuous_integral_continuousMap [FunLike F X ℝ] [ContinuousMapClass F
     Continuous fun μ : ProbabilityMeasure X ↦ ∫ x, f x ∂μ :=
   continuous_iff_forall_continuousMap_continuous_integral.1 continuous_id ⟨f, map_continuous f⟩
 
-end convergence_in_distribution -- section
+omit [OpensMeasurableSpace Ω] in lemma HasFiniteIntegral_continuous_ProbabilityMeasure
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]:
```suggestion
omit [OpensMeasurableSpace Ω] in
lemma HasFiniteIntegral_continuous_probabilityMeasure
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 14]
```diff
@@ -409,7 +409,16 @@ lemma continuous_integral_continuousMap [FunLike F X ℝ] [ContinuousMapClass F
...
+ {μ : ProbabilityMeasure Ω} {f : C(Ω, ℝ)} : HasFiniteIntegral ⇑f μ := by
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]:
```suggestion
   {μ : ProbabilityMeasure Ω} {f : C(Ω, ℝ)} : HasFiniteIntegral ⇑f μ := by
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 15]
```diff
@@ -161,6 +161,9 @@ lemma compLeft_apply {g : C(β, γ)} (hg : g 0 = 0) (f : C_c(α, β)) (a : α) :
     rcases Metric.isBounded_iff.1 this.isBounded with ⟨C, hC⟩
     exact ⟨C, by grind⟩
 
+@[simp]
+lemma Equiv_to_continuous_eq [CompactSpace α] (f : C(α, γ)) :
+    (continuousMapEquiv f).toContinuousMap = f := rfl
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
lemma toContinuousMap_continuousMapEquiv [CompactSpace α] (f : C(α, γ)) :
    (continuousMapEquiv f).toContinuousMap = f := rfl

```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 16]
```diff
@@ -182,6 +185,10 @@ instance [Zero β] : Zero C_c(α, β) where
 instance [Zero β] : Inhabited C_c(α, β) :=
   ⟨0⟩
 
+@[simp]
+lemma liftCompactlySupported_zero [CompactSpace α] [AddCommMonoid β] :
+  continuousMapEquiv (0 : C(α, β)) = 0 := rfl
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
    continuousMapEquiv (0 : C(α, β)) = 0 := rfl
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 17]
```diff
@@ -182,6 +185,10 @@ instance [Zero β] : Zero C_c(α, β) where
 instance [Zero β] : Inhabited C_c(α, β) :=
   ⟨0⟩
 
+@[simp]
+lemma liftCompactlySupported_zero [CompactSpace α] [AddCommMonoid β] :
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
lemma continuousMapEquiv_zero [CompactSpace α] [AddCommMonoid β] :
```

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 18]
```diff
@@ -224,37 +231,46 @@ instance [SemigroupWithZero β] [ContinuousMul β] :
...
+lemma add_apply (f g : C_c(α, β)) : (f + g) x = f x + g x := rfl
+
+instance : AddZeroClass C_c(α, β) := DFunLike.coe_injective.addZeroClass _ coe_zero coe_add
 
-instance [AddZeroClass β] [ContinuousAdd β] : AddZeroClass C_c(α, β) :=
-  DFunLike.coe_injective.addZeroClass _ coe_zero coe_add
+end AddZeroClass
+
+@[simp]
+lemma liftCompactlySupported_add [CompactSpace α] [AddCommMonoid β] [ContinuousAdd β]
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean]:
```suggestion
lemma continuousMapEquiv_add [CompactSpace α] [AddCommMonoid β] [ContinuousAdd β]
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean (hunk 11 above)
Comment (FormulaRabbit81) [reply Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]: I tried, but think this is difficult

File: Mathlib/Topology/ContinuousMap/CompactlySupported.lean [hunk 19]
```diff
@@ -161,6 +161,9 @@ lemma compLeft_apply {g : C(β, γ)} (hg : g 0 = 0) (f : C_c(α, β)) (a : α) :
     rcases Metric.isBounded_iff.1 this.isBounded with ⟨C, hC⟩
     exact ⟨C, by grind⟩
 
+@[simp]
+lemma toContinuousMap_continuousMapEquiv [CompactSpace α] (f : C(α, γ)) :
+    (continuousMapEquiv f).toContinuousMap = f := rfl
 end Basics
```
Comment (YaelDillies) [inline Mathlib/Topology/ContinuousMap/CompactlySupported.lean:168]:
```suggestion

end Basics
```

File: Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean [hunk 20]
```diff
@@ -409,7 +409,17 @@ lemma continuous_integral_continuousMap [FunLike F X ℝ] [ContinuousMapClass F
...
-end convergence_in_distribution -- section
+omit [OpensMeasurableSpace Ω] in
+lemma HasFiniteIntegral_continuous_ProbabilityMeasure
+    {μ : ProbabilityMeasure Ω} {f : C(Ω, ℝ)} : HasFiniteIntegral ⇑f μ := by
+  let f' := BoundedContinuousFunction.mkOfCompact f
+  obtain ⟨c, hf'⟩ := BoundedContinuousFunction.bddAbove_range_norm_comp f'
+  change HasFiniteIntegral f' μ
+  simp_rw [mem_upperBounds, Set.mem_range, Function.comp_apply, forall_exists_index,
+    forall_apply_eq_imp_iff] at hf'
+  exact MeasureTheory.HasFiniteIntegral.of_bounded (C := c) <| Filter.Eventually.of_forall hf'
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/ProbabilityMeasure.lean]:
```suggestion
  exact .of_bounded (C := c) <| .of_forall hf'
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 21]
```diff
@@ -6,9 +6,12 @@ Authors: Kalle Kytölä
...
-public import Mathlib.MeasureTheory.Integral.Layercake
-public import Mathlib.MeasureTheory.Integral.BoundedContinuousFunction
+
+import Mathlib.Analysis.Normed.Module.WeakDual
+import Mathlib.MeasureTheory.Integral.DominatedConvergence
+import Mathlib.MeasureTheory.Integral.RieszMarkovKakutani.NNReal
+import Mathlib.Topology.ContinuousMap.SecondCountableSpace
+
 
 /-!
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
/-!
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 22]
```diff
@@ -722,4 +727,115 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+  have hΦ : IsClosed Φ := by -- Note this is compact, but we only need closedness
+    · refine (hA1.isClosed.inter ?_).inter ?_
+      · have : B = (fun f ↦ f ⟨(fun x => 1), continuous_const⟩) ⁻¹' {1} := by grind
+        simpa [this] using (IsClosed.preimage (WeakDual.eval_continuous _) isClosed_singleton)
+      · have : C = ⋂ f : {g : C_c(X, ℝ) | 0 ≤ g}, {φ : WeakDual ℝ C(X, ℝ) | 0 ≤ φ f} := by
+          ext x; simp [C]
+        rw [this]
+        refine isClosed_iInter fun f ↦ ?_
+        have : {φ | 0 ≤ φ f} = (fun φ : WeakDual ℝ C(X, ℝ) ↦ φ f) ⁻¹' Set.Ici 0 := by grind
+        simpa using (IsClosed.preimage (WeakDual.eval_continuous _) isClosed_Ici)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
    refine (hA1.isClosed.inter ?_).inter ?_
    · have : B = (fun f ↦ f ⟨(fun x => 1), continuous_const⟩) ⁻¹' {1} := by grind
      simpa [this] using (IsClosed.preimage (WeakDual.eval_continuous _) isClosed_singleton)
    · have : C = ⋂ f : {g : C_c(X, ℝ) | 0 ≤ g}, {φ : WeakDual ℝ C(X, ℝ) | 0 ≤ φ f} := by
        ext x; simp [C]
      rw [this]
      refine isClosed_iInter fun f ↦ ?_
      have : {φ | 0 ≤ φ f} = (fun φ : WeakDual ℝ C(X, ℝ) ↦ φ f) ⁻¹' Set.Ici 0 := by grind
      simpa using (IsClosed.preimage (WeakDual.eval_continuous _) isClosed_Ici)
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 23]
```diff
@@ -722,4 +726,115 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+  -- We define Φ as the space of normalized positive continuous linear functionals on C(X, ℝ)
+  let A := toStrongDual ⁻¹' Metric.closedBall (α := (StrongDual ℝ C(X, ℝ))) 0 1
+  have hA1 : IsCompact A := isCompact_closedBall ℝ 0 1
+  let B := {φ : WeakDual ℝ C(X, ℝ) | φ ⟨fun x => 1, continuous_const⟩ = 1}
+  let C := {φ : WeakDual ℝ C(X, ℝ) | ∀ f: C_c(X, ℝ), 0 ≤ f → 0 ≤ φ f}
+  let Φ := A ∩ B ∩ C
+  have hΦ : IsClosed Φ := by -- Note this is compact, but we only need closedness
+    refine (hA1.isClosed.inter ?_).inter ?_
+    · have : B = (fun f ↦ f ⟨(fun x => 1), continuous_const⟩) ⁻¹' {1} := by grind
+      simpa [this] using (IsClosed.preimage (WeakDual.eval_continuous _) isClosed_singleton)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
      simpa [this] using isClosed_singleton.preimage (WeakDual.eval_continuous _)
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 24]
```diff
@@ -722,4 +726,115 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+    · have : C = ⋂ f : {g : C_c(X, ℝ) | 0 ≤ g}, {φ : WeakDual ℝ C(X, ℝ) | 0 ≤ φ f} := by
+        ext x; simp [C]
+      rw [this]
+      refine isClosed_iInter fun f ↦ ?_
+      have : {φ | 0 ≤ φ f} = (fun φ : WeakDual ℝ C(X, ℝ) ↦ φ f) ⁻¹' Set.Ici 0 := by grind
+      simpa using (IsClosed.preimage (WeakDual.eval_continuous _) isClosed_Ici)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
      simpa using isClosed_Ici.preimage (WeakDual.eval_continuous _)
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 25]
```diff
@@ -722,4 +726,115 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+            (f := (ContinuousMap.equivBoundedOfCompact X ℝ).toFun f)
+      · change (fun f ↦ ∫ (x : X), f x ∂μprob) (fun x ↦ 1) = 1
+        simp
+      · change (0 ≤ (fun f ↦ ∫ (x : X), f x ∂μprob) g.toContinuousMap)
+        simpa [coe_toContinuousMap] using integral_nonneg hgpos
+    let φ_fin : Φ := by use φ_weak
+    exact ⟨φ_fin, (Equiv.symm_apply_eq
+        (LevyProkhorov.toMeasureEquiv)).mpr <| Subtype.ext
+        RealRMK.rieszMeasure_integralPositiveLinearMap⟩
+  rw [←this.range_eq]
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
  rw [← this.range_eq]
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 26]
```diff
@@ -722,4 +726,115 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+  -- Now we show T is continuous using the universal property and RMK
+  refine IsSeqCompact.range <| Continuous.seqContinuous <| Continuous.comp
+      (LevyProkhorov.continuous_ofMeasure_probabilityMeasure) ?_ (Y := ProbabilityMeasure X)
+  rw [ProbabilityMeasure.continuous_iff_forall_continuous_integral]
+  intro BCfun
+  let CCfun := CompactlySupportedContinuousMap.continuousMapEquiv BCfun.toContinuousMap
+  have IntToMeas x : ∫ (x : X), BCfun x ∂RealRMK.rieszMeasure (Λ x) =
+      Λ x (continuousMapEquiv BCfun.toContinuousMap) := RealRMK.integral_rieszMeasure (Λ x) CCfun
+  simpa [IntToMeas, Λ] using Continuous.comp (WeakDual.eval_continuous _) continuous_subtype_val
+      (g := (fun (x : WeakDual ℝ C(X,ℝ)) ↦ x CCfun.toContinuousMap))
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
      (g := (fun (x : WeakDual ℝ C(X, ℝ)) ↦ x CCfun.toContinuousMap))
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 27]
```diff
@@ -722,4 +726,115 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+      · change (0 ≤ (fun f ↦ ∫ (x : X), f x ∂μprob) g.toContinuousMap)
+        simpa [coe_toContinuousMap] using integral_nonneg hgpos
+    let φ_fin : Φ := by use φ_weak
+    exact ⟨φ_fin, (Equiv.symm_apply_eq
+        (LevyProkhorov.toMeasureEquiv)).mpr <| Subtype.ext
+        RealRMK.rieszMeasure_integralPositiveLinearMap⟩
+  rw [←this.range_eq]
+  -- Now we show T is continuous using the universal property and RMK
+  refine IsSeqCompact.range <| Continuous.seqContinuous <| Continuous.comp
+      (LevyProkhorov.continuous_ofMeasure_probabilityMeasure) ?_ (Y := ProbabilityMeasure X)
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
  refine .range ((LevyProkhorov.continuous_ofMeasure_probabilityMeasure).comp ?_).seqContinuous
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 28]
```diff
@@ -722,4 +726,115 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+        map_smul' := by simp [L, integral_const_mul]
+        monotone' := fun _ _ hle ↦ L.monotone' <| CompactlySupportedContinuousMap.le_def.mpr hle}
+    let φ_weak : WeakDual ℝ (C(X, ℝ)) := ((liftL).toLinearMap.mkContinuous 1 fun f ↦ ?_)
+    swap
+    · simpa [-Real.norm_eq_abs,integralPositiveLinearMap_toFun, LinearMap.coe_mk,
+      AddHom.coe_mk, one_mul, L, liftL] using BoundedContinuousFunction.norm_integral_le_norm _
+         (f := (ContinuousMap.equivBoundedOfCompact X ℝ).toFun f)
+    have as_ball : φ_weak ∈ Φ := by
+      simp only [Φ]
+      refine ⟨⟨?_,?_⟩,fun g hgpos ↦ ?_⟩ -- Show it satisfies each of the defining properties of Φ
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
      refine ⟨⟨?_, ?_⟩, fun g hgpos ↦ ?_⟩ -- Show it satisfies each of the defining properties of Φ
```

File: Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean [hunk 29]
```diff
@@ -722,4 +726,115 @@ instance instMetrizableSpaceProbabilityMeasure (X : Type*) [TopologicalSpace X]
...
+    let L : C_c(X, ℝ) →ₚ[ℝ] ℝ := integralPositiveLinearMap (μprob : Measure X)
+    let liftL : C(X, ℝ) →ₚ[ℝ] ℝ :=
+       {toFun := L ∘ continuousMapEquiv
+        map_add' f g := by
+          simp only [Function.comp_apply, continuousMapEquiv_add]
+          apply MeasureTheory.integral_add'
+          all_goals simpa [Integrable] using ⟨by measurability,
+              HasFiniteIntegral_continuous_ProbabilityMeasure⟩
+        map_smul' := by simp [L, integral_const_mul]
+        monotone' := fun _ _ hle ↦ L.monotone' <| CompactlySupportedContinuousMap.le_def.mpr hle}
```
Comment (YaelDillies) [inline Mathlib/MeasureTheory/Measure/LevyProkhorovMetric.lean]:
```suggestion
        monotone' _ _ hle := L.monotone' <| CompactlySupportedContinuousMap.le_def.mpr hle}
```

**Review by YaelDillies — APPROVED** [review]
Thanks! 🚀

maintainer merge

**Comment by FormulaRabbit81** [comment]
> I'm really sorry about that, but a similar result has already been merged in Mathlib a few days ago, as part of the Prokhorov theorem in #32701 (without metrizability assumptions). All my apologies for not noticing your PR and not waiting for it to get past the line.

Ah that is ok - it looks like your result is far more general anyway!
